### ISSUE TITLE
Invalid projection on field of a dependent cast in a dependent structure constructor

### ISSUE THREAD

**Issue by tydeu** [leanprover/lean4#1370]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The kernel can produce an 'invalid projection' error when attempting to project the result of a `cast` of dependent type when constructing a structure. While the conditions of the error are hard to describe, the example below should help explain.

### Steps to Reproduce

```lean
opaque Val : Type
opaque Key : Type
opaque Data (key : Key) : Type

structure Spec where
  key : Key
  toVal : Data key → Val

structure BoxedVal where
  val : Val
  -- error occurs regardless of whether struct has fields other than `val`
  etc : Nat

/-
errors:
(kernel) invalid projection
  data.1
-/
def Spec.ofKey (key : Key) (h : Data key = BoxedVal) : Spec :=
  Spec.mk key (fun data => cast h data |>.val)

-- no error; error appears to only occur because of `Spec` struct
def Val.ofKey (key : Key) (h : Data key = BoxedVal) (data : Data key) : Val :=
  cast h data |>.val

-- can avoid the error with `let_fun`
def Spec.ofKey' (key : Key) (h : Data key = BoxedVal) : Spec :=
  Spec.mk key (fun data => let_fun box := cast h data; box.val)
```

**Expected behavior:**

For `Spec` to be accepted.

**Actual behavior:**

The kernel produces an 'invalid projection' error.

**Reproduces how often:**

Always.

### Versions

Windows 10 20H2
`Lean (version 4.0.0-nightly-2022-07-20, commit 3846dd60fd5b, Release)`

### Additional Information

None.

**Comment by leodemoura** [comment]
@tydeu To fix this issue we need the new code generator we have been discussing at the lean4-dev channel on Zulip. The current code generator does not work for this kind of `cast` you use in the example above. The full explanation is on the dev channel.

**Comment by fpfu** [comment]
found another failing example:

```lean
def Foo (i: Nat) := 
  PSigma fun j: Nat   => 
  PSigma fun _: j < i => Foo j

/-
(kernel) invalid projection
  x.1
-/
example (x: Foo i): Fin i := by 
  unfold Foo at x 
  exact ⟨_, x.2.1⟩

-- it works:
example (x: Foo i): Fin i := by 
  unfold Foo at x 
  let ⟨_,h,_⟩ := x
  exact ⟨_, h⟩
```

**Comment by zwarich** [comment]
Both of these examples are fixed by the new compiler.
